US07973082B2
(±)-1-Amino-5-methyl-hex-4-en-3-ol (28.5 g, 219 mmol) and diisopropyl ethylamine (45.9 mL, 263 mmol) were dissolved in dichloromethane (400 mL) and cooled on an ice bath. Methyl chloroformate (17 mL, 219 mmol) in dichloromethane (20 mL) was added slowly. The mixture was stirred for 2 h. at 0° C. A saturated aqueous solution of sodium hydrogencarbonate was added and the phases separated. The aqueous phase was extracted twice with dichloromethane. The organic phases were dried, filtered and evaporated to give (±)-(3-hydroxy-5-methyl-hex-4-enyl)carbamic acid methyl ester (38.9 g, 100%) as a yellow oil.

reactant | (±)-1-Amino-5-methyl-hex-4-en-3-ol | 219 mmol, 28.5 g | NCCC(C=C(C)C)O | C7H15NO
reactant | diisopropyl ethylamine | 263 mmol, 45.9 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | Methyl chloroformate | 219 mmol, 17 mL | ClC(=O)OC | C2H3ClO2
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | dichloromethane | 400 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | (±)-(3-hydroxy-5-methyl-hex-4-enyl)carbamic acid methyl ester | 38.9 g, 100% | COC(NCCC(C=C(C)C)O)=O | C9H17NO3
